US07501430B2
To a mixture of 2-aminothiazole (2.7 g, 26.7 mmol) and 2-bromo-3′-methoxyacetophenone (6.0 g, 0.0262 mol) was added absolute ethanol (100 ml). The reaction was allowed to reflux with vigorous stirring for 18 hours (checked by HPLC). The reaction mixture was reduced to half its original volume in vacuo. The remaining liquid was poured onto ice and the solution made basic by the addition of ammonium hydroxide solution (30%). The resulting fine solid was filtered and washed with water resulting in a dark yellow solid product. The solid product was dried in a vacuum oven at 50° C. to provide 6-(3-methoxyphenyl)-imidazo[2,1-b]thiazole (5.0 g, 81%). 400 MHz 1H NMR (DMSO-d6) δ 8.18 (s, 1H), 7.88 (d, J=4.4 Hz, 1H), 7.36-7.42 (m, 2H), 7.28 (t, J=8.1 Hz, 1H), 7.22 (d, J=4.4 Hz, 1H), 6.82 (ddd, J=8.1, 2.6, 1.1 Hz, 1H), 3.80 (s, 3H). LCMS: 231 [M+H].

reactant | 2-aminothiazole | 26.7 mmol, 2.7 g | NC=1SC=CN1 | C3H4N2S
reactant | 2-bromo-3′-methoxyacetophenone | 0.0262 mol, 6.0 g | BrCC(=O)C1=CC(=CC=C1)OC | C9H9BrO2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 6-(3-methoxyphenyl)-imidazo[2,1-b]thiazole | 5.0 g, 81% | COC=1C=C(C=CC1)C=1N=C2SC=CN2C1 | C12H10N2OS
